US09382188B2
A) 3-bromo-2-methoxypyridine
Under an argon atmosphere, to a solution of 3-bromo-2-chloropyridine (4.76 g) in DMF (30 mL) was added 28% sodium methoxide methanol solution (5.73 g) at room temperature, and the mixture was stirred at 80° C. for 30 min. Water was added at room temperature, and the mixture was extracted with ethyl acetate. The extract was washed with water and saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to give a crude product of the title compound (4.43 g) as a pale-yellow oil. This compound was used for the next step without further purification.

reactant | 3-bromo-2-chloropyridine | 4.76 g | BrC=1C(=NC=CC1)Cl | C5H3BrClN
reactant | sodium methoxide methanol | 5.73 g | CO.C[O-].[Na+]
reactant | Water | O | H2O
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 3-bromo-2-methoxypyridine | 4.43 g | BrC=1C(=NC=CC1)OC | C6H6BrNO
